US09422331B2
A suspension (2S,3S)-3-amino-2-tert-butoxycarbonylamino-butyric acid methyl ester (6.0 g, 20.7 mmol) (prepared according to WO 2010031750), 1-fluoro-2-nitrobenzene (4.37 g, 31.0 mmol) and sodium hydrogen carbonate (5.21 g, 62 mmol) in N,N-dimethylformamide (60 ml) was heated to 85° C. for 24 h. The reaction was cooled, concentrated in vacuo and the residue was diluted with water (100 ml) and extracted with ethyl acetate (2×150 ml). The organic layers were combined, washed with water (1×50 mL), brine (1×50 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by chromatography over silica gel gradient eluted with 5 to 60% v/v ethyl acetate hexanes to give (2S,3S)-2-tert-butoxycarbonylamino-3-(2-nitro-phenylamino)-butyric acid methyl ester (5.71 g, 78%).

reactant | (2S,3S)-3-amino-2-tert-butoxycarbonylamino-butyric acid methyl ester | 20.7 mmol, 6.0 g | COC([C@H]([C@H](C)N)NC(=O)OC(C)(C)C)=O | C10H20N2O4
reactant | 1-fluoro-2-nitrobenzene | 31.0 mmol, 4.37 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | sodium hydrogen carbonate | 62 mmol, 5.21 g | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | (2S,3S)-2-tert-butoxycarbonylamino-3-(2-nitro-phenylamino)-butyric acid methyl ester | 5.71 g, 78% | COC([C@H]([C@H](C)NC1=C(C=CC=C1)[N+](=O)[O-])NC(=O)OC(C)(C)C)=O | C16H23N3O6
